US08912200B2
Step 5: 1-(4-Ethynyl-3-methoxyphenyl)-4-methylpiperazine
A solution of 1-{3-methoxy-4-[(trimethylsilyl)ethynyl]phenyl-4-methylpiperazine (583 mg, 1.927 mmol) in anhydrous methanol (12 mL) is treated with powdered anhydrous potassium carbonate under stirring at room temperature for 1.5 h. After removing the solvent under vacuum the residue was taken up with EtOAc (80 mL) and water (5 mL). The phases were separated, the organic phase was washed with brine (3×10 mL), water (10 mL), dried over sodium sulfate and the solvent removed under vacuum. The dark oil obtained was purified by chromatography on silica gel (DCM/MeOH/TEA 90/10/0.1) to give the title compound as brownish solid (374 mg, 84.2%).

reactant | 3-methoxy-4-[(trimethylsilyl)ethynyl]phenyl-4-methylpiperazine | 1.927 mmol, 583 mg | COC=1C=C(C=CC1C#C[Si](C)(C)C)N1CCN(CC1)C | C17H26N2OSi
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 12 mL | CO | CH4O
product | 1-(4-Ethynyl-3-methoxyphenyl)-4-methylpiperazine | 374 mg, 84.2% | C(#C)C1=C(C=C(C=C1)N1CCN(CC1)C)OC | C14H18N2O
